US08377895B2
Preparation of 5,7-dihydroxy-6-((4-hydroxypiperidin-1-yl)methyl)-8-methoxy-2-phenyl-4H-chromen-4-one [Hydroxypiperidine Wogonin]
The mixture of Wogonin (28.4 g), methanol (350 ml), 37% formaldehyde solution (8.04 ml), 4-hydroxy-piperidine (10.2 g) was stirred under for 4 hours at 50° C., then precipitates were removed by filtration and washed several times with methanol, after drying under reduced pressure at 65° C. to get the product as orange red solid 38.5 g of purity 99.4%. MS: (API-ES) m/z 398.5 [M+H]+420.5 [M+Na]+; 1H NMR (DMSO-d6, 400 MHz): δ 8.05˜8.06 (m, 2H, Ar-2′,6′-H), 7.60˜7.61 (m, 3H, Ar-3′,4′,5′-H), 6.90 (s, 1H, 3-H), 3.94 (s, 2H, CH2), 3.83 (s, 3H, 8-OCH3), 3.65-3.67 (m, 1H, CH), 2.62, 2.98 (m, 4H, CH2), 1.51, 1.83 (m, 4H, CH2).

reactant | Wogonin | 28.4 g | COC=1C(=CC(=C2C1OC(=CC2=O)C=3C=CC=CC3)O)O | C16H12O5
reactant | formaldehyde | 8.04 ml | C=O | CH2O
reactant | 4-hydroxy-piperidine | 10.2 g | OC1CCNCC1 | C5H11NO
solvent | methanol | 350 ml | CO | CH4O
product | 5,7-dihydroxy-6-((4-hydroxypiperidin-1-yl)methyl)-8-methoxy-2-phenyl-4H-chromen-4-one | 38.5 g | OC1=C2C(C=C(OC2=C(C(=C1CN1CCC(CC1)O)O)OC)C1=CC=CC=C1)=O | C22H23NO6
